US08258144B2
To a mixture of 2,4-dichloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine (0.6 g, 1.28 mmol) in nBuOH (2 mL) was added methylamine (2M THF, 0.77 mL, 1.54 mmol) and DIPEA (0.274 mL, 1.54 mmol). After stirring at ambient temperature for 1 h, the resulting precipitate was collected by filtration to give 2-chloro-N-methyl-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.275 g).

reactant | 2,4-dichloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine | 1.28 mmol, 0.6 g | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H8Cl2IN3O2S
reactant | methylamine | 1.54 mmol, 2M, 0.77 mL | CN | CH5N
reactant | DIPEA | 1.54 mmol, 0.274 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
product | 2-chloro-N-methyl-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.275 g | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)NC | C14H12ClIN4O2S
